US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(methoxycarbonylmethyloxy)benzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine (0.200 g, 0.465 mmol) was dissolved in acetone (30 ml) and after adding thereto anhydrous sodium carbonate (0.077 g, 0.558 mmol) and methyl bromoacetate (0.078 g, 0.512 mmol), the solution was refluxed under heating for 3 hours. The reaction solution was filtered, the filtrate was concentrated and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=1:1) to obtain the titled compound (0.230 g, 0.398 mmol, 86%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine | 0.465 mmol, 0.200 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)O)C(=C(C1OC)OC)OC)C | C23H29NO7
reactant | sodium carbonate | 0.558 mmol, 0.077 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl bromoacetate | 0.512 mmol, 0.078 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(methoxycarbonylmethyloxy)benzoyl]morpholine | 0.398 mmol, 0.230 g, 86% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)OCC(=O)OC)C(=C(C1OC)OC)OC)C | C26H33NO9
